US05948819
Synthesis of methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-nitroacetate (Compound No. 439)
A solution of methyl 2-chloro-2-[2-(2,5-dimethylphenoxymethyl)phenyl]acetate (0.35 g, 1.1 mmol), sodium nitrite (0.13 g, 1.9 mmol) and phloroglucinol (0.145 g, 1.1 mol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 6 hours. Water was added to the mixture. The resulting mixture was extracted with ether, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by column chromatography on silica gel (n-hexane/methylene chloride=1/1) to give the desired compound methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-nitroacetate (0.08 g, 22%) as an oil.

reactant | methyl 2-chloro-2-[2-(2,5-dimethylphenoxymethyl)phenyl]acetate | 1.1 mmol, 0.35 g | ClC(C(=O)OC)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C18H19ClO3
reactant | sodium nitrite | 1.9 mmol, 0.13 g | N(=O)[O-].[Na+]
reactant | phloroglucinol | 1.1 mol, 0.145 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-nitroacetate | 0.08 g, 22% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)[N+](=O)[O-])C=C(C=C1)C | C18H19NO5
